US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid methyl ester (0.36 g), methanol (10 mL) and 1.0 M aqueous sodium hydroxide solution (4.0 mL) was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure and the pH of the residue adjusted to 5 by the addition of formic acid. Purification by preparative reverse-phase HPLC using a gradient of acetonitrile in water (50% to 65% of organic modifier) gave title compound as a white solid, 0.035 g.

reactant | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic acid methyl ester | 0.36 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)C)=O | C22H21Cl2NO5S
reactant | sodium hydroxide | 1.0 M, 4.0 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)C)OCC(=O)O | C21H19Cl2NO5S
